US08580783B2
2-[2-amino-5-(5-methoxy-1H-indol-3-ylmethyl)-[1,2,4]triazolo[1,5-c]quinazolin-8-ylamino]-ethanol
Operating as in Example 54, but employing 8-fluoro-5-(5-methoxy-1H-indol-3-ylmethyl)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine, prepared as described in Example 32, instead of 5-benzo[1,3]dioxol-5-ylmethyl-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine and 2-hydroxy-ethylamine instead of morpholine, the title compound was obtained in 35% yield.

reactant | 8-fluoro-5-(5-methoxy-1H-indol-3-ylmethyl)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | FC=1C=CC=2C=3N(C(=NC2C1)CC1=CNC2=CC=C(C=C12)OC)N=C(N3)N | C19H15FN6O
reactant | 5-benzo[1,3]dioxol-5-ylmethyl-8-fluoro-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | O1COC2=C1C=CC(=C2)CC2=NC=1C=C(C=CC1C=1N2N=C(N1)N)F | C17H12FN5O2
reactant | 2-hydroxy-ethylamine | OCCN | C2H7NO
product | 2-[2-amino-5-(5-methoxy-1H-indol-3-ylmethyl)-[1,2,4]triazolo[1,5-c]quinazolin-8-ylamino]-ethanol | 35% yield | NC1=NN2C(=NC=3C=C(C=CC3C2=N1)NCCO)CC1=CNC2=CC=C(C=C12)OC | C21H21N7O2
